US04666920
A mixture of 3.3 g of 1-dimethylamino-7-chloro-6-fluoro-8-nitro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 3.1 g of 1-methylpiperazine and 25 ml of dioxane is refluxed for 3 hours. The solvent is stripped off in vacuo, the residue is suspended in 25 ml of H2O and the pH is brought to 1 with 10% strength hydrochloric acid. The precipitate is filtered off with suction in the cold and washed with a little cold 10% strength hydrochloric acid and ethanol. 3.6 g of 1-dimethylamino-6-fluoro-8-nitro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochoride of decomposition point 292°-294° C. are obtained.

reactant | 1-dimethylamino-7-chloro-6-fluoro-8-nitro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.3 g | CN(N1C=C(C(C2=CC(=C(C(=C12)[N+](=O)[O-])Cl)F)=O)C(=O)O)C | C12H9ClFN3O5
reactant | 1-methylpiperazine | 3.1 g | CN1CCNCC1 | C5H12N2
reactant | dioxane | 25 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | 25 ml | O | H2O
product | 1-dimethylamino-6-fluoro-8-nitro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochoride | 3.6 g | Cl.CN(N1C=C(C(C2=CC(=C(C(=C12)[N+](=O)[O-])N1CCN(CC1)C)F)=O)C(=O)O)C | InChI=1S/C17H20FN5O5.ClH/c1-19(2)22-9-11(17(25)26)16(24)10-8-12(18)14(15(13(10)22)23(27)28)21-6-4-20(3)5-7-21;/h8-9H,4-7H2,1-3H3,(H,25,26);1H
